US05141957
EXAMPLE 3 SYNTHESIS OF 1,4-BIS-(3-PROPYLAMINO-2-HYDROXYPROPYLAMINO)-9, 10 ANTHRACENEDIONE HYDROCHLORIDE SALT (COMPOUND 1a IN TABLE 1)
To a solution of 1,4-bis-(3-chloro-2-hydroxylpropylamino)-9, 10-anthracenedione (1 g, 2.36 mmole), propylamine (1.39 g, 23.6 mmole), and potassium iodide (0.26 g, 160 mmole) in methanol (20 mL), which had been stirred for 4 hours at room temperature, was added potassium carbonate (0.5 g, 3.62 mmole), and the reaction was stirred at room temperature for an additional 16 hours. Solvent was removed and the blue product was dissolved in dichloromethane, and was washed three times with water. The organic layer was dried over magnesium sulfate and the solvent was removed under reduced pressure. The blue product was purified by column chromatography (silica gel, dichloromethane with an increasing methanol gradient) to yield the free base of the title compound, which was then treated with hydrochloride gas through a stirring solution in acetone until a color change was noted to yield the title compound 1,4-Bis-(3-Propylamino-2-Hydroxypropylamino)-9, 10 anthracenedione hydrochloride (580 mg, 48%); NMR (CDCl3) δ 0.94 (t, J=7.3 Hz, 6H, CH3), 1.57 (m, 4H, CH2), 2.64 (m, 4H, CH2), 2.75 (m, 4H, CH2), 3.33 (m, 6H, CH and CH2), 4.05 b, 2H, OH), 6.80 (s, 2H, Ar (2, 3)), 7.52 (m, 2H, Ar (6, 7)), 7.94 (m, 2H, Ar (5, 8)), 10.63 (b, 2H, NH);

reactant | 1,4-bis-(3-chloro-2-hydroxylpropylamino)-9, 10-anthracenedione | 2.36 mmole, 1 g | ClCC(CNC1=CC=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)NCC(CCl)O)O | C20H20Cl2N2O4
reactant | propylamine | 23.6 mmole, 1.39 g | C(CC)N | C3H9N
reactant | potassium iodide | 160 mmole, 0.26 g | [I-].[K+]
reactant | potassium carbonate | 3.62 mmole, 0.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 20 mL | CO | CH4O
product | 1,4-BIS-(3-PROPYLAMINO-2-HYDROXYPROPYLAMINO)-9, 10 ANTHRACENEDIONE HYDROCHLORIDE SALT | Cl.C(CC)NCC(CNC1=CC=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)NCC(CNCCC)O)O | InChI=1S/C26H36N4O4.ClH/c1-3-11-27-13-17(31)15-29-21-9-10-22(30-16-18(32)14-28-12-4-2)24-23(21)25(33)19-7-5-6-8-20(19)26(24)34;/h5-10,17-18,27-32H,3-4,11-16H2,1-2H3;1H
